US08912188B2
To a solution of methyl 2-(1,3-benzothiazol-5-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate (100 mg, 0.25 mmol) in methanol (15 mL) was added sodium hydroxide (30.0 mg, 0.75 mmol) and water (1 mL). The resulting solution was stirred overnight at room temperature and concentrated in vacuo. The residue was dissolved in water (15 mL) and adjusted pH to 5 with hydrochloric acid (3 N). The solids were collected by filtration to afford 2-(1,3-benzothiazol-5-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylic acid as a yellow solid (80 mg, 82%).

reactant | methyl 2-(1,3-benzothiazol-5-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylate | 0.25 mmol, 100 mg | S1C=NC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N2[C@H](CCC2)C)C(=O)OC | C22H20N4O2S
reactant | sodium hydroxide | 0.75 mmol, 30.0 mg | [OH-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | methanol | 15 mL | CO | CH4O
product | 2-(1,3-benzothiazol-5-yl)-3-[(2S)-2-methylpyrrolidin-1-yl]quinoxaline-6-carboxylic acid | 80 mg, 82% | S1C=NC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N2[C@H](CCC2)C)C(=O)O | C21H18N4O2S
